US08633173B2
N-Methyl-N-{2-[2-(2-methyl-2,3-dihydro-1H-isoindol-5-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl]-phenyl}-methanesulfonamide was prepared from N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenyl]-N-methyl-methanesulfonamide (75.0 mg, 0.208 mmol) and 2-methyl-2,3-dihydro-1H-isoindol-5-ylamine (35.0 mg, 0.236 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.004 g, 4%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.43 (d, J=6.9 Hz, 1H), 7.68-7.61 (m, 2H), 7.56-7.49 (m, 2H), 7.47-7.35 (m, 3H), 7.20 (d, J=7.9 Hz, 1H), 6.94 (s, 1H), 6.89 (t, J=7.0 Hz, 1H), 3.96 (s, 2H), 3.90 (s, 2H), 3.61 (s, 3H), 3.21 (s, 3H), 2.61 (s, 3H). MS=473 (MH)+.

reactant | N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenyl]-N-methyl-methanesulfonamide | 0.208 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)C#CC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C16H13ClN4O2S
reactant | 2-methyl-2,3-dihydro-1H-isoindol-5-ylamine | 0.236 mmol, 35.0 mg | CN1CC2=CC=C(C=C2C1)N | C9H12N2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-{2-[2-(2-methyl-2,3-dihydro-1H-isoindol-5-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl]-phenyl}-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)C#CC=1C=2N(C=CC1)N=C(N2)NC=2C=C1CN(CC1=CC2)C | C25H24N6O2S
